US09212141B2
In a typical reaction, 2,2,2-trifluoro-N-(4-methoxyphenyl)acetimidoyl chloride and a slight excess of 3,3-diethoxyprop-1-yne are mixed with about 0.3 equivalents of copper (I) iodide and slight excesses of potassium phosphate and potassium iodide in anhydrous acetonitrile. The mixture is heated at about 60° C. under a nitrogen atmosphere until the reaction is complete. After cooling, an extraction solvent like a halogenated hydrocarbon is added to the mixture along with water. The organic layer is recovered, washed with brine and dried. The solvent is evaporated to provide crude N-(5,5-diethoxy-1,1,1-trifluoro-pent-3-yn-2-ylidene)-4-methoxyaniline.

reactant | 2,2,2-trifluoro-N-(4-methoxyphenyl)acetimidoyl chloride | FC(C(=NC1=CC=C(C=C1)OC)Cl)(F)F | C9H7ClF3NO
reactant | 3,3-diethoxyprop-1-yne | C(C)OC(C#C)OCC | C7H12O2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | copper (I) iodide | about 0.3 equivalents | [Cu]I
solvent | water | O | H2O
product | N-(5,5-diethoxy-1,1,1-trifluoro-pent-3-yn-2-ylidene)-4-methoxyaniline | C(C)OC(C#CC(C(F)(F)F)=NC1=CC=C(C=C1)OC)OCC | C16H18F3NO3
